US06365592B1
Step 1 tert-Butyl 2-{4-(bromomethyl)phenyl}-2,2-difluoroacetate
To tert butyl 2-{4-(methyl)phenyl}-2,2-difluoroacetate(see X. Creary, J. Org. Chem. 1987, 52, 5026) (4.8 g) in CC14 (80 mL) was added NBS (3.8 g), followed by benzoyl peroxide (100 mg). The reaction mixture was heated at reflux and was irradiated with a sun lamp for 1.5 h. The mixture was cooled down and diluted with hexane (50 mL) purified by filtration on a pad of silica gel. The filtrate was concentrated to give the title product for step 2 as a yellow-brown liquid (6.4 g) 1H NMR δ: (CD3COCD3), 1.48 (9H, m), 4.70 (2H, s), 7.62 (4H, m).

reactant | tert butyl 2-{4-(methyl)phenyl}-2,2-difluoroacetate | 4.8 g | CC1=CC=C(C=C1)C(C(=O)OC(C)(C)C)(F)F | C13H16F2O2
reactant | NBS | 3.8 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 100 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | hexane | 50 mL | CCCCCC | C6H14
product | tert-Butyl 2-{4-(bromomethyl)phenyl}-2,2-difluoroacetate | BrCC1=CC=C(C=C1)C(C(=O)OC(C)(C)C)(F)F | C13H15BrF2O2
